US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (50 mg, 0.22 mmol) was coupled to 5′-(5,5-dimethyl[1,3,2]dioxaborinan-2-yl)-2′-fluorobiphenyl-4-carbonitrile (87 mg, 0.28 mmol) as described in Example 7 part g), affording 2′-fluoro-5′-(7-trifluoromethyl[1,8]naphthyridin-4-yl)biphenyl-4-carbonitrile (21 mg, 25%). δH (360 MHz, CDCl3) 7.41-7.46 (1H, m), 7.52-7.60 (3H, m), 7.71-7.82 (4H, m), 7.85 (1H, d, J 8.4), 8.52 (1H, d, J 8.8), 9.30 (1H, d, J 4.6). m/z (ES+) 394 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.22 mmol, 50 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 5′-(5,5-dimethyl[1,3,2]dioxaborinan-2-yl)-2′-fluorobiphenyl-4-carbonitrile | 0.28 mmol, 87 mg | CC1(COB(OC1)C=1C=CC(=C(C1)C1=CC=C(C=C1)C#N)F)C | C18H17BFNO2
product | 2′-fluoro-5′-(7-trifluoromethyl[1,8]naphthyridin-4-yl)biphenyl-4-carbonitrile | 21 mg, 25% | FC1=C(C=C(C=C1)C1=CC=NC2=NC(=CC=C12)C(F)(F)F)C1=CC=C(C=C1)C#N | C22H11F4N3
